* C:\Users\Erik\Documents\absat\github shit\ualberta-hackED-2021\guitarmageddon.asc
XU1 N023 N035 9V0 0 N035 LT1211
R1 N023 4V5 100k
R2 N016 N035 330
C1 N016 N023 56n
C2 N003 N016 1.5µ
R3 Equalizer_Feedback N003 {10k - R_100Hz + 1}
R4 N003 Equalizer_Input {R_100Hz + 1}
XU3 N024 N036 9V0 0 N036 LT1211
R9 N024 4V5 100k
R10 N017 N036 330
C5 N017 N024 15n
C6 N004 N017 0.33µ
R11 Equalizer_Feedback N004 {10k - R_400Hz + 1}
R12 N004 Equalizer_Input {R_400Hz + 1}
XU5 N025 N037 9V0 0 N037 LT1211
R17 N025 4V5 82k
R18 N018 N037 330
C9 N018 N025 3.9n
C10 N005 N018 0.1µ
R19 Equalizer_Feedback N005 {10k - R_1k6Hz + 1}
R20 N005 Equalizer_Input {R_1k6Hz + 1}
R26 Equalizer_Feedback N006 {10k - R_6k4Hz + 1}
R27 N006 Equalizer_Input {R_6k4Hz + 1}
XU2 N026 N038 9V0 0 N038 LT1211
R5 N026 4V5 82k
R6 N019 N038 330
C3 N019 N026 1n
C4 N006 N019 22n
R7 Equalizer_Input Distortion_Output 3.3k
XU4 Equalizer_Input Equalizer_Feedback 9V0 0 Equalizer_Implementation_Output LT1211
R8 Equalizer_Implementation_Output Equalizer_Feedback 3.3k
R14 N010 guitar_input 1k
C8 N011 N010 47n
R15 4V5 N011 510k
R16 N012 0 10k
R21 N013 N012 100
R22 0 in_buffer_output 100k
C11 in_buffer_output N013 10µ
R13 guitar_input 0 1Meg
C7 guitar_input 0 10p
Q1 9V0 N011 N012 0 2N2222
R23 in_buffer_output 0 1Meg
C12 N014 in_buffer_output 10n
R24 N015 N014 10k
C13 N015 0 1n
R25 4V5 N015 1Meg
XU6 N015 N001 9V0 0 N002 LT1211
C14 N002 N001 47p
R28 N001 N001 {100k - R_gain + 1}
R29 N002 N001 {R_gain + 1}
D1 N002 N001 1N914
D2 N001 N002 1N914
C15 Distortion_Output N002 10µ
R30 Distortion_Output Distortion_Output {100k - R_vol + 1}
D3 Distortion_Output 0 1N914
D4 0 Distortion_Output 1N914
R31 Distortion_Output N034 {R_vol + 1}
C16 N034 0 1n
R32 N007 Equalizer_Implementation_Output {1Meg - R_sns + 1}
R33 N007 N007 {R_sns + 1}
C17 N008 N007 1µ
R34 N008 N009 2.2Meg
R35 N009 9V0 4.7k
C18 N009 N021 1µ
D5 N022 N021 1N914
D6 N021 N031 1N914
C19 N022 N031 220n
Q2 N022 N008 N009 0 BC547C
Q3 N039 N031 N022 0 BC547C
R36 9V0 N039 470k
C20 Equalizer_Implementation_Output N020 10µ
R37 N020 N030 2.2k
M1 N030 N039 N040 N040 BSC017N04NS
C21 N030 noise_gate_output 10µ
R38 0 N040 220
R39 noise_gate_output N027 {100k - R_out + 1}
R40 N027 0 {R_out + 1}
R41 N028 N027 1k
C22 N029 N028 47n
R42 4V5 N029 510k
Q4 9V0 N029 N032 0 NPN
R43 N032 0 10k
R44 N033 N032 100
C23 output_pedal N033 10µ
R45 output_pedal 0 100k
R46 9V0 4V5 33k
R47 4V5 0 33k
C24 4V5 0 47µF
V1 9V0 0 9 Rser=0
C25 9V0 0 100µF
D7 0 9V0 D
V2 guitar_input 0 AC 1 Rser=0
.model D D
.lib C:\Users\Erik\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Erik\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Erik\Documents\LTspiceXVII\lib\cmp\standard.mos
* 100Hz Pot
* 400Hz Pot
* 1.6kHz Pot
* 6.4kHz Pot
* Equalizer (Tone) Stage
.param R_100Hz=5k
.param R_400Hz=5k
.param R_1k6Hz=5k
* Nom: TL022
* Nom: TL022
* Nom: TL022
* All resistor pairs in this row \nrepresent linear potentiomers
* Nom: TL022
.param R_6k4Hz=5k
* U2 nominally uRC4558
* Equalizer Implementation
* Soft/Hard Clipping Distortion
* Input Buffer
* Noise Gate
* Output Buffer
* Sense Pot
* Gain Pot
* Volume Pot
* Volume Pot
* NOTE: Use the following commands to switch \nbetween time and frequency domain sims.\n \nTIME DOMAIN SIM:\nV4 Value: \nSINE(0 0.1 1k)\nSPICE Command: \n.tran 0 10m 0 1u\n \nFREQUENCY DOMAIN SIM:\nV4 Value: \nAC 1\nSPICE Command:\n.ac oct 10 20 22k
.step param R_gain 1 100k 10k
.ac oct 10 20 22k
* SPICE Cmd =>
* Param Sweep =>
.param R_gain=50k
.param R_vol=50k
.param R_sns=500k
.param R_out=50k
.lib LTC.lib
.backanno
.end
